### PR TITLE
feat(Order): Trimmed length of a RelSeries 

### PR DESCRIPTION
**Pull request by Raph-DG**
In this PR, we define the trimmed length of a relseries rs : RelSeries (· ≤ ·) to be the cardinality of the underlying function rs.toFun of rs minus 1. This models the number of `<` relations occuring in rs. We develop some basic API for this notion, with the main intended application being a proof that module length is additive.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/TrimmedLength.lean [hunk 1]
```diff
@@ -0,0 +1,241 @@
...
+import Mathlib.Algebra.Order.Sub.Basic
+import Mathlib.Order.RelSeries
+import Mathlib.Data.Fintype.Sort
+
+
+/-!
+
+# Trimmed Length
+
+Given a relseries rs : RelSeries (· ≤ ·), we define the trimmed length of rs to be the cardinality
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:16]:
```suggestion
Given a relseries `rs : RelSeries (· ≤ ·)`, we define the trimmed length of `rs` to be the cardinality
```
Please format the bits of Lean using markdown inline code formatting.

File: Mathlib/Order/TrimmedLength.lean [hunk 2]
```diff
@@ -0,0 +1,241 @@
...
+
+/--
+The length of a relseries rs is equal to the trimmed length if and only if the underlying function
+of rs (i.e. rs.toFun) is injective.
+-/
+lemma RelSeries.length_eq_trimmedLength_iff :
+  rs.length = rs.trimmedLength ↔ rs.toFun.Injective := by
+  constructor
+  · intro h
+    simp[RelSeries.trimmedLength] at h
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:54]: Please squeeze all non-terminal simps, using `simp?`

File: Mathlib/Order/TrimmedLength.lean [hunk 3]
```diff
@@ -0,0 +1,241 @@
...
+      obtain ⟨j, rfl⟩ := hb
+      simp only [Subtype.mk_le_mk]
+      exact (le_total i j).imp (RelSeries.rel_of_le rs) (RelSeries.rel_of_le rs)
+    decidableLE := inferInstance
+
+/--
+Constructs LTSeries associated to a given RelSeries (α := α) (· ≤ ·) constructed by
+taking only those places where the relation is not equality.
+-/
+def RelSeries.trim (rs : RelSeries (α := α) (· ≤ ·)) :
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:226]:
```suggestion
@[simps]
def RelSeries.trim (rs : RelSeries (α := α) (· ≤ ·)) :
```
I didn't test this. But I suspect that it will automatically generate the lemma `length_trim` below.

Comment (Raph-DG) [reply Mathlib/Order/TrimmedLength.lean:224]: Ah you're right, it did indeed!

File: Mathlib/Order/TrimmedLength.lean [hunk 4]
```diff
@@ -0,0 +1,231 @@
...
+Given a relseries `rs : RelSeries (· ≤ ·)`, we define the trimmed length of `rs` to be the
+cardinality of the underlying function `rs.toFun` of `rs` minus `1`. This models the number of `<`
+relations occuring in `rs`. In this file we develop the main API for working with the trimmed length
+
+-/
+
+open Order
+
+variable {α : Type*}
+
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:25]:
```suggestion

namespace RelSeries
```

File: Mathlib/Order/TrimmedLength.lean [hunk 5]
```diff
@@ -0,0 +1,231 @@
...
+
+variable [PartialOrder α] [DecidableEq α]
+  (rs : RelSeries (α := α) (· ≤ ·))
+
+/--
+Given `rs : RelSeries (α := α) (· ≤ ·)`,  `rs.trimmedLength` measures the number of `<`s appearing
+in `rs` defined as the image of the underlying function of `rs`, i.e. `rs.toFun`.
+-/
+def RelSeries.trimmedLength (rs : RelSeries (α := α) (· ≤ ·)) : ℕ :=
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:34]:
```suggestion
def trimmedLength (rs : RelSeries (α := α) (· ≤ ·)) : ℕ :=
```
Idem dito for the other declarations, if you wrap the file in a `namespace`.

File: Mathlib/Order/TrimmedLength.lean [hunk 6]
```diff
@@ -0,0 +1,231 @@
...
+-/
+@[simps]
+def RelSeries.trim (rs : RelSeries (α := α) (· ≤ ·)) :
+ RelSeries (α := α) (· < ·) where
+   length := rs.trimmedLength
+   toFun := Subtype.val ∘ monoEquivOfFin (Finset.image rs.toFun Finset.univ)
+    (by simp[RelSeries.trimmedLength])
+   step := by
+    intro i
+    simp
```
Comment (jcommelin) [inline Mathlib/Order/TrimmedLength.lean:231]:
```suggestion
    simp

end RelSeries
```

**Comment by grunweg** [comment]
Thanks for the PR! Coming here from PR triage, my impression is that you have some review comments to address. Please do so - once you have, feel free to remove the awaiting-author label again.

**Comment by alreadydone** [comment]
Maybe this PR (and #22127) are no longer needed after #23663 is merged. If so please close the PR(s).
